US06175007B1
2,4-Dichloro-5-(6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-ethyl)oxime
9.2 g (0.31 mol) of sodium hydride, 51.3 g (0.28 mol) of ethyl 3-amino-4,4,4-trifluorocrotonate and 72.6 g (0.28 mol) of 2,4-dichloro-5-isocyanatobenzaldehyde (O-ethyl)oxime were reacted in the manner described for precursor 3.2. Yield: 72.0 g; m.p.: 205-209° C.

reactant | sodium hydride | 0.31 mol, 9.2 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 0.28 mol, 51.3 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 2,4-dichloro-5-isocyanatobenzaldehyde (O-ethyl)oxime | 0.28 mol, 72.6 g | C(C)ON=CC1=C(C=C(C(=C1)N=C=O)Cl)Cl | C10H8Cl2N2O2
product | 2,4-Dichloro-5-(6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-ethyl)oxime | C(C)ON=CC1=C(C=C(C(=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)Cl)Cl | C14H10Cl2F3N3O3
